US07132551B2
3-(4-Trifluoromethyl-phenoxymethyl)-piperidine (50 mg, 0.19 mmol), (1H-Indol-3-yl)-acetic acid (73 mg, 0.21 mmol), the amide coupling agent BrOP (123 mg, 0.32 mmol), and diisopropylethylamine (75 mg, 0.58 mmol) were dissolved in 2 mL of anhydrous dichloromethane. The mixture was kept at room temperature overnight, diluted with 10 mL of water, and 10 mL of ether. Extractive workup gave in each case, after concentration of the organic layers in vacuo and chromatography on silica gel using a EtOAc-hexane gradient column, the desired amide intermediate (71 mg, 90%). This amide was dissolved in 5 mL of THF at 0° C. and excess lithium aluminum hydride (50 mg, ca. 8 equivalents) was added. The solution was heated to reflux for 5 minutes, cooled to 0° C., and quenched by dropwise addition of 0.5 mL 1M NaOH. Additional THF (10 mL) was added, and the suspension was stirred at room temperature for 30 minutes and then filtered though a plug of sodium sulfate. The solution thus obtained was concentrated in vacuo and the residue was purified by flash chromatography on silica gel using as eluent a gradient of ethyl acetate in hexane containing 1% ammonium hydroxide. 53 mg of 3-{2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethyl}-1H-indole, 180, was obtained (77%). Data for this compound: MS 403 (M++1).

reactant | 3-(4-Trifluoromethyl-phenoxymethyl)-piperidine | 0.19 mmol, 50 mg | FC(C1=CC=C(OCC2CNCCC2)C=C1)(F)F | C13H16F3NO
reactant | (1H-Indol-3-yl)-acetic acid | 0.21 mmol, 73 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | diisopropylethylamine | 0.58 mmol, 75 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium aluminum hydride | 50 mg, ca. 8 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 3-{2-[3-(4-Trifluoromethyl-phenoxymethyl)-piperidin-1-yl]-ethyl}-1H-indole | 53 mg | FC(C1=CC=C(OCC2CN(CCC2)CCC2=CNC3=CC=CC=C23)C=C1)(F)F | C23H25F3N2O
